US08609656B2
1-(9-{4-[3-(4-Chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-yl)-3-(2-hydroxyethyl)urea (Table 2, Compound No. 2)
In a mixed solution of 3 mL of tetrahydrofuran and 1 mL of water, 50 mg (0.09 mmol) of 1-allyl-3-(9-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-yl)urea was dissolved, and 19 μL of a 0.1 M osmium tetraoxide aqueous solution and 81 mg (0.19 mmol) of sodium periodate were added thereto and the mixture solution was stirred at room temperature for three hours. The reaction solution was concentrated under reduced pressure and partitioned between ethyl acetate and water. The organic layer was washed with a saturated sodium chloride solution and concentrated under reduced pressure. The residue was dissolved in 2 mL of ethanol, and 5 mg (0.13 mmol) of sodium borohydride was added thereto and the mixture solution was stirred at room temperature for one hour. The reaction solution was concentrated, and purified by a silica gel column (dichloromethane:methanol=9:1) to obtain 5 mg (13%) of a target product as a white solid.

reactant | 1-allyl-3-(9-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-yl)urea | 0.09 mmol, 50 mg | C(C=C)NC(=O)NC1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F | C23H18ClF3N8O2
reactant | sodium periodate | 0.19 mmol, 81 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium borohydride | 0.13 mmol, 5 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | water | 1 mL | O | H2O
catalyst | osmium tetraoxide | 0.1 M | [Os](=O)(=O)(=O)=O
product | 1-(9-{4-[3-(4-Chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-yl)-3-(2-hydroxyethyl)urea | 5 mg, 13% | ClC1=C(C=C(C=C1)NC(NC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1)NC(=O)NCCO)=O)C(F)(F)F | C22H18ClF3N8O3
